US05618808
F. (R)-1-{9-[2-(3,5-Dimethylpiperidin-1-yl)-2-oxo-ethyl]-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl}-3-m-tolyl-urea
A solution of 0.100 g (0.000325M) (R)-(8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-3-m-tolyl-urea in 5 ml of THF was cooled to -78° C. under a nitrogen atmosphere. To this solution was added dropwise 0.321 mL (0.000325M) of lithium bis-hexamethyldisilylamide (1M solution in THF) and the reaction was stirred for 15 minutes. To this mixture was added 0.090 ml (0.000325M) of N-iodoacetyl-3,5-dimethyl piperidine. After addition was complete, the reaction was warmed to room temperature and stirred for 30 minutes. The reaction mixture was quenched with 5 mL of water, and extracted with ethyl acetate. The ethyl acetate extracts were dried and evaporated. The residue was chromatographed on 15 g of silica using 10:1 chloroform:methanol as the eluant. The appropriate fractions were combined and evaporated to yield 109 mg (72% yield) of product as a white solid.

reactant | (R)-(8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-3-m-tolyl-urea | 0.000325M, 0.100 g | O=C1[C@@H](COC2=C(N1)C=CC=C2)NC(=O)NC=2C=C(C=CC2)C | C17H17N3O3
reactant | N-iodoacetyl-3,5-dimethyl piperidine | 0.000325M, 0.090 ml | ICC(=O)N1CC(CC(C1)C)C | C9H16INO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (R)-1-{9-[2-(3,5-Dimethylpiperidin-1-yl)-2-oxo-ethyl]-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl}-3-m-tolyl-urea | 109 mg, 72% yield | CC1CN(CC(C1)C)C(CN1C([C@@H](COC2=C1C=CC=C2)NC(=O)NC=2C=C(C=CC2)C)=O)=O | C26H32N4O4
